US05015661
rac-4-[2-(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethyl]-1,2-benzenediol.
A mixture of 1 g of rac-3,4-dihydro-2-{[3-hydroxy-4-(phenylmethoxy)phenyl]ethynyl}-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol, 0.5 g of 5% palladium on carbon. 100 ml of ethanol and 10 ml of glacial acetic acid was hydrogenated at atmospheric pressure for 4.5 hours. The catalyst was filtered off and the filtrate was evaporated. The residue was partitioned between methylene chloride and saturated sodium bicarbonate solution. The organic layer was dried and evaporated and the residue was crystallized from ether/hexane to give 0.5 g of colorless crystals with m.p. 167°-170°.

reactant | rac-3,4-dihydro-2-{[3-hydroxy-4-(phenylmethoxy)phenyl]ethynyl}-2,5,7,8-tetramethyl-2H-1-benzopyran-6-ol | 1 g | OC=1C=C(C=CC1OCC1=CC=CC=C1)C#CC1(OC2=C(CC1)C(=C(C(=C2C)C)O)C)C | C28H28O4
reactant | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | rac-4-[2-(3,4-Dihydro-6-hydroxy-2,5,7,8-tetramethyl-2H-1-benzopyran-2-yl)ethyl]-1,2-benzenediol | 0.5 g | OC=1C(=C(C2=C(CCC(O2)(C)CCC=2C=C(C(=CC2)O)O)C1C)C)C | C21H26O4
